US08937071B2
A solution of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (10 mg, 0.024 mmol), 4-bromo-2-(trifluoromethyl)benzonitrile (6.09 mg, 0.024 mmol), Pd2(dba)3 (2.231 mg, 2.436 mol), Xantphos (1.410 mg, 2.436 mol) and Cs2CO3 (15.88 mg, 0.049 mmol) in 1,4-dioxane (1 mL) was stirred at 120° C. for 1 h. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The residue was dissolved in EA (20 mL) and washed with H2O (10 mL) and brine (10 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=1/1) to yield a white solid of N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (15 mg, 0.013 mmol, 51.4% yield): 1H NMR (400 MHz, CD3OD) δ 8.23 (s, 1H), 7.98 (m, 1H), 7.94-7.90 (m, 2H), 7.44-7.37 (m, 6H), 6.90 (d, J=8.4 Hz, 2H), 5.32 (s, 2H), 4.16-4.11 (m, 2H), 2.85 (s, 2H), 3.77 (s, 3H), 1.41 (t, J=7.2 Hz, 3H); ES-LCMS m/z 460.1 (M−120).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.024 mmol, 10 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)N)F | C23H23FN2O4
reactant | 4-bromo-2-(trifluoromethyl)benzonitrile | 0.024 mmol, 6.09 mg | BrC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
reactant | Xantphos | 2.436 mol, 1.410 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.049 mmol, 15.88 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 2.436 mol, 2.231 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.013 mmol, 15 mg, 51.4% yield | C(#N)C1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C31H25F4N3O4
